US08030311B2
Step 14.1: 4′-Methoxy-5-trifluoromethyl-biphen-3-ylamine
The title compound is prepared as described in Example 13 but using 3-amino-5-bromobenzotrifluoride (RYAN SCIENTIFIC) and 4-methoxyphenylboronic acid (Aldrich). Title compound: ES-MS: 266.0 [M-H]−; single peak at tR=4.61 min (System 1); Rf=0.20 (Hexane/EtOAc, 3:1).

reactant | 3-amino-5-bromobenzotrifluoride | NC=1C=C(C=C(C1)Br)C(F)(F)F | C7H5BrF3N
reactant | 4-methoxyphenylboronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | Hexane EtOAc | CCCCCC.CCOC(=O)C
product | 4′-Methoxy-5-trifluoromethyl-biphen-3-ylamine | COC1=CC=C(C=2C=C(C=C(C2)N)C(F)(F)F)C=C1 | C14H12F3NO
